US04584293
(e) 1-[2-(2-Amino-4,5-dichlorophenyl)-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Next, 1-[2-(2-amino-4,5-dichlorophenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane (4.8 g, 0.01 mol) is dissolved in absolute tetrahydrofuran (100 ml) and mixed with boron trifluoride-diethyl ether complex (1.25 g, 1.1 ml). Then, a 10M toluene solution of borane-dimethylsulphide complex (1.6 ml) diluted with absolute tetrahydrofuran (20 ml) is added to the reaction mixture with stirring, under a nitrogen atmosphere and with heating to reflux temperature, and the resulting mixture is refluxed for a further 8 hours. The solvent is distilled off in vacuo, the residue is heated in 6M hydrochloric acid (100 ml) to 80° C. for one hour, cooled and extracted twice with ethyl acetate. The hydrochloric acid solution is then made alkaline with 50% sodium hydroxide solution while cooling with ice water and extracted several times with methylene chloride. The extract is dried over magnesium sulphate, concentrated by evaporation in vacuo and the residue is purified by column chromatography over alumina N (170 g) [activity II, eluant: methylene chloride and increasing amounts of ethanol (up to 5%). Yield: 1 g.

reactant | 1-[2-(2-amino-4,5-dichlorophenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | 0.01 mol, 4.8 g | NC1=C(C=C(C(=C1)Cl)Cl)CC(=O)NCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C | C24H31Cl2N3O3
reactant | toluene | 10M | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[2-(2-Amino-4,5-dichlorophenyl)-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | NC1=C(C=C(C(=C1)Cl)Cl)CCNCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C | C24H33Cl2N3O2
